US04975438
As described in Example 134, a solution of (E)-5,5-bis (4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (1.0 g) and 3-(3-pyridinyloxy)proPanamine (0.4 g) in tetrahydrofuran (10 mL) was stirred overnight at room temperature. After the usual work up, the crude product was crystallized from ethyl acetate-hexane to give 0.85 g of (E)-5.5-bis(4-methoxyphenyl)-N-[3-[(3-pyridinyl)oxy]propyl]-2,4-pentadienamide, mp 146°-147° C.

reactant | (E)-5,5-bis (4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C25H21NO6
reactant | 3-(3-pyridinyloxy)proPanamine | 0.4 g | N1=CC(=CC=C1)OCCCN | C8H12N2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-5.5-bis(4-methoxyphenyl)-N-[3-[(3-pyridinyl)oxy]propyl]-2,4-pentadienamide | 0.85 g | COC1=CC=C(C=C1)C(=C/C=C/C(=O)NCCCOC=1C=NC=CC1)C1=CC=C(C=C1)OC | C27H28N2O4
